Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dyspnea on exertion
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ y/o F with history of Type II DM, asthma,
migraine headaches, sleep apnea, prior DVT in ___ who presents
with several weeks of cough and dyspnea.

She started feeling cold-like symptoms several weeks ago with
cough productive of yellow sputum, wheezing and dyspnea, not
improved with use of her home inhalers (flovent, albuterol). She
had recently taken a flight and notes there were sick people on
the plane. She was seen for an urgent visit where she was felt 
to
have a viral URI with mild asthma flare. She was prescribed a 6
day prednisone taper (30x2, 20x2, 10x2) as well as symptomatic
treatment. She returned to clinic for follow up on ___ at which
time she noted feeling improved symptomatically, although
continued to have persistent cough associated with some sweats
and ear pressure. She had a CXR which was without evidence of
pneumonia. She was prescribed an additional prednisone taper (4
tablets x 2 days, 3 tablets x 2 days, 2 tablets x 2 days, 1
tablet x 2 days) as well as a 10 day course of doxycycline 100 
mg
BID. She reports feeling improved following this visit and felt
well enough to return to work on ___. However, by the end of
the work day, she reports feeling increasingly dyspneic and
unwell. She called the clinic and was directed to go to the ED.

In the ED, initial vitals were:  98.4 ___ 20 100% RA 
- Exam notable for:  
- Labs notable for: WBC of 15.7, hgb 12.5, HCO3 25, Creatinine
0.7, proBNP 13, D-Dimer 369
- Imaging was notable for:  clear CXR
- EKG notable for SR, normal axis, 94/min, normal intervals, no
acute ischemic changes 
- Patient was given:  Albuterol neb x9, Ipratropium neb x1,
Methylpred 125mg IV x1, Magnesium sulfate 2mg IV x1 at 1159 on
___, doxycycline 100mg x2, most recently at 0929 on ___,
metformin 500mg x1

Upon arrival to the floor, patient endorses the above history. 
In
terms of her asthma, she remembers being told she had asthma
several years ago, however has never had formal testing. Per
review of primary care notes, she has had stable asthma since
___, with mild flares when she has a cold. She has never been
hospitalized or required intubation. She denies associated
fevers, but has had some sweats/chills. She remembers having
brief chest pain while at rest, which she describes as sharp,
lasting seconds on ___ occasions, but denied chest pain on
exertion. She continues to have dyspnea, which tends to be
provoked by cough and is worse with exertion. 

She notes that every time she has a cold it worsens her asthma,
however this is the worst she has ever been.  

She has a history of DVT of LLE in ___. She notes several 
months
ago she noted asymmetric swelling R>L, evaluated with RLE U/S
which was negative for DVT.

ROS: Positive per HPI. Remaining 10 point ROS reviewed and
negative

 
Past Medical History:
Asthma
Type II Diabetes
Sleep apnea (on home auto-PAP)
Obesity
H/o DVT ___, unprovoked, on lovenox bridge to warfarin x ___
year)
 
Social History:
___
Family History:
Asthma
Diabetes
Hypertension
No history of MI, cardiac disease, MI or DVT.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VITAL SIGNS: 98.3 102/64 99 16 96 Ra 
GENERAL: Mild distress, speaking in full sentences
HEENT:  NC/AT, EOMI, PERRL, sclera anicteria
NECK:  Supple, JVD to level of clavicle at 30 degrees
CARDIAC:  RRR, normal S1/2, no murmurs appreciated
LUNGS:  CTAB, no wheezing appreciated
ABDOMEN:  Obese, soft, NT, ND
EXTREMITIES:  WWP, no edema
NEUROLOGIC:  MAE with purpose, CN II-XII intact
SKIN:  No rashes noted

DISCHARGE PHYSICAL EXAM:
AVSS. Off O2. Ambulatory SpO2 to solarium at 98%, HR max 107 
Peak expiratory flow (best out of 3) 450
In NAD
EOMI, neck supple, JVP flat
COR RRR no MRG
LUNGS CTA bilat with increased air entry bilat
ABD soft, NT/ND no HSM
EXT no edema
NEURO nl cognition, fluent speech, nl gait, nl 
strength/sensation
SKIN no rash
 
Pertinent Results:
ADMISSION LABS
--------------

___ 11:50AM BLOOD WBC-15.7* RBC-4.51 Hgb-12.5 Hct-39.3 
MCV-87 MCH-27.7 MCHC-31.8* RDW-13.7 RDWSD-42.9 Plt ___
___ 11:50AM BLOOD Glucose-122* UreaN-21* Creat-0.7 Na-138 
K-3.8 Cl-100 HCO3-25 AnGap-13
___ 11:50AM BLOOD cTropnT-<0.01 proBNP-13
___ 07:25AM BLOOD Calcium-9.0 Phos-4.1 Mg-2.2
___ 11:50AM BLOOD HCG-<5
___ 11:50AM BLOOD D-Dimer-369

DISCHARGE LABS
--------------

___ 06:10AM BLOOD WBC-17.0* RBC-4.11 Hgb-11.9 Hct-37.0 
MCV-90 MCH-29.0 MCHC-32.2 RDW-14.5 RDWSD-46.4* Plt ___
___ 06:10AM BLOOD Glucose-98 UreaN-20 Creat-0.7 Na-139 
K-4.2 Cl-100 HCO3-24 AnGap-15
___ 06:10AM BLOOD Calcium-8.9 Phos-4.4 Mg-2.1

IMAGING
-------

___ CXR

IMPRESSION:  
  
No acute cardiopulmonary process. 

 
Brief Hospital Course:
___ female presenting with dyspnea and cough, most likely 
representative of asthma exacerbation in setting of possible 
recent viral illness. 

==============
ACTIVE ISSUES:
==============

# Dyspnea:
# Cough:
# Asthma exacerbation: 
The patient presented with several weeks of cough and dyspnea on 
mild exertion, which started following an episode of upper 
respiratory symptoms including productive cough. Given the 
similarity of her current presentation to prior episodes, the 
fact that her prior episodes mostly occurred during the ___, 
and that they seem to have been provoked by upper respiratory 
infections or environmental exposures, as well as her history of 
multiple allergies and symptomatic improvement on inhalers and 
oral steroids, her current presentation is most consistent a 
prolonged asthma exacerbation. Low suspicion for cardiac 
etiology given normal EKG and negative troponin as well as BNP 
within normal limits. In the setting of a chest x-ray without 
acute abnormalities, other pulmonary etiologies such as early 
interstitial lung disease or fungal infections could be 
considered. However, given the episodic nature of her 
presentations with return to baseline after treatment with 
nebulizers and steroids, these diagnoses seem less likely. 
Therefore, the patient was treated for asthma exacerbation with 
nebulizers and high-dose steroids. The patient was monitored 
through the day on ___. Her respiratory status improved, her 
ambulatory O2 sats were within normal limits and her peak flows 
were stable at approximately 400 (her baseline peak flow was 
unknown). We held off on further cardiac or pulmonary imaging 
studies at this point pending response to current treatment and 
a history that is most consistent with asthma. An outpatient 
follow up appointment for an outpatient pulmonary function test 
was scheduled for ___. Patient was discharged with a 
prescription for a nebulizer, nebulized albuterol, and a slow 
prednisone taper. Prednisone taper as follows: 50 mg daily 
starting ___, to be reduced by 10 mg every 3 days until off.

# Leukocytosis:
WBC 15 on admission, slightly up-trending during hospital stay. 
Most likely related to glucocorticoid exposure. Afebrile, no 
evidence of pneumonia on CXR. 

===============
CHRONIC ISSUES:
===============

# History of DVT:
LLE DVT dx in ___, received warfarin x ___ year, now on pix with 
aspirin 81 mg daily. F/u LLE ultrasound in ___ without evidence 
of DVT. Most recently had RLE U/S in ___ to evaluate 
asymmetric swelling, which was negative for DVT. D-dimer in the 
ED at the most recent presentation was negative. Continued 
aspirin 81 mg daily.

#Type II Diabetes: Held home metformin. No documented 
hyperglycemia despite steroids. Patient should be followed 
closely for hyperglycemia while getting prednisone as an 
outpatient.

#Other home meds:
- Continued MVI
- Continued vitamin D

====================
TRANSITIONAL ISSUES
====================
[ ] Pulmonary function testing scheduled for ___.
[ ] Discharged on Prednisone taper (50 mg daily x3 days, 
decrease by 10 mg every 3 days)
[ ] Discharged with new Rx for omeprazole to be taken while on 
prednisone
[ ] Discharge with Rx for nebulizer and albuterol
[ ] Please monitor diabetes control while on steroids
[ ] Discontinued antibiotics (patient taking at admission) given 
no evidence of infection

# CODE: full (confirmed)
# CONTACT: ___ (mom) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. MetFORMIN XR (Glucophage XR) 500 mg PO DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. Vitamin D ___ UNIT PO DAILY 
5. Doxycycline Hyclate 100 mg PO Q12H 
6. PredniSONE 10 mg PO DAILY 
7. Fluticasone Propionate 110mcg 2 PUFF IH BID 
8. Albuterol Inhaler 2 PUFF IH Q4H:PRN shortness of breath 
9. Benzonatate 100 mg PO TID:PRN cough 
10. Guaifenesin-CODEINE Phosphate ___ mL PO Q6H:PRN cough 

 
Discharge Medications:
1.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN wheezing, 
shortness of breath 
RX *albuterol sulfate 2.5 mg/3 mL (0.083 %) 1 vial neb every 
four (4) hours Disp #*30 Vial Refills:*1 
2.  Omeprazole 20 mg PO DAILY 
Take this medication as long as you are on prednisone. 
RX *omeprazole 20 mg 1 capsule(s) by mouth once a day Disp #*30 
Capsule Refills:*1 
3.  PredniSONE 50 mg PO DAILY Duration: 3 Doses 
Start: ___, First Dose: First Routine Administration Time 
This is dose # 1 of 6 tapered doses
RX *prednisone 10 mg ___ tablet(s) by mouth once a day Disp #*45 
Tablet Refills:*0 
4.  PredniSONE 40 mg PO DAILY Duration: 3 Doses 
Start: After 50 mg DAILY tapered dose 
This is dose # 2 of 6 tapered doses 
5.  PredniSONE 30 mg PO DAILY Duration: 3 Doses 
This is dose # 3 of 6 tapered doses 
6.  PredniSONE 20 mg PO DAILY Duration: 3 Doses 
This is dose # 4 of 6 tapered doses 
7.  PredniSONE 20 mg PO DAILY Duration: 3 Doses 
This is dose # 5 of 6 tapered doses 
8.  PredniSONE 10 mg PO DAILY Duration: 3 Doses 
Start: After 20 mg DAILY tapered dose 
This is dose # 6 of 6 tapered doses 
9.  Albuterol Inhaler 2 PUFF IH Q4H:PRN shortness of breath 
RX *albuterol sulfate [ProAir HFA] 90 mcg 2 puffs inhaled every 
four (4) hours Disp #*1 Inhaler Refills:*0 
10.  Aspirin 81 mg PO DAILY  
11.  Benzonatate 100 mg PO TID:PRN cough 
RX *benzonatate 100 mg 1 capsule(s) by mouth three times a day 
Disp #*90 Capsule Refills:*0 
12.  Fluticasone Propionate 110mcg 2 PUFF IH BID 
RX *fluticasone [Flovent HFA] 110 mcg/actuation 2 puffs inhaled 
twice a day Disp #*1 Inhaler Refills:*0 
13.  Guaifenesin-CODEINE Phosphate ___ mL PO Q6H:PRN cough  
14.  MetFORMIN XR (Glucophage XR) 500 mg PO DAILY  
15.  Multivitamins 1 TAB PO DAILY  
16.  Vitamin D ___ UNIT PO DAILY  
17.Nebulizer
Nebulizer
Dx: 493.9 (ICD-9) / J45.9 (ICD-10)
Prognosis: good
Length of need: 12 months

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
==================
- Asthma exacerbation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted for shortness of breath, which was most likely 
caused by an exacerbation of your asthma.  You underwent an 
extensive diagnostic workup and no other cause of your 
respiratory symptoms was found.  Overall, this is very good 
news.  You were given intensive treatments for asthma including 
high-dose prednisone and frequent nebulizers.

After receiving these treatments for 2 days, you improved enough 
that he felt better and could be safely discharged home with 
regular inhaled asthma medicines and a prolonged steroid taper.

It is important that you follow-up with your primary care doctor 
within the week after discharge and that you go to your 
appointment for pulmonary function testing so that we can make 
sure there is no other problem with your breathing.

Thank you for letting us participate in your care,
Your ___ Care team
 
Followup Instructions:
___